US08486953B2
4-(2-(1-((1,2,4-Oxadiazol-3-yl)methyl)piperidin-4-yloxy)-4-fluorophenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide
To a suspension of methyl 4-(4-fluoro-2-(piperidin-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide (0.06 g, 0.15 mmol) in DMF (2.0 mL) was added Hünigs base (0.06 mL, 0.35 mmol) and 3-(chloromethyl)-1,2,4-oxadiazole (0.035 g, 0.3 mmol) and the mixture was warmed to 60° C. for 18 hours. After cooling to ambient temperature water (2 mL) was added and the mixture stirred for 0.5 hours. The precipitated solid was collected by filtration and triturated from boiling MeCN. The solid was collected by filtration and dried under vacuum to give beige solid (0.046 g, 63%).

reactant | methyl 4-(4-fluoro-2-(piperidin-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide | 0.15 mmol, 0.06 g | CC=1N=C(C2=C(N1)SC(=C2C)C(=O)N)NC2=C(C=C(C=C2)F)OC2CCNCC2 | C20H22FN5O2S
reactant | Hünigs base | 0.35 mmol, 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(chloromethyl)-1,2,4-oxadiazole | 0.3 mmol, 0.035 g | ClCC1=NOC=N1 | C3H3ClN2O
reactant | water | 2 mL | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 4-(2-(1-((1,2,4-Oxadiazol-3-yl)methyl)piperidin-4-yloxy)-4-fluorophenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide | 0.046 g, 63% | O1N=C(N=C1)CN1CCC(CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C22H22FN7O3S
